US03950528
3-Amino-1-(3-trifluoromethyl-4-methylbenzyl)-pyrazol-5-one ##SPC49##
34 g of 4-methyl-3-trifluoromethylbenzylhydrazine were added dropwise, under nitrogen, to a solution of 26.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and a pinch of p-toluenesulphonic acid in 100 ml of ethanol. After stirring overnight, the compound identified above, which had precipitated, was filtered off and recrystallised from ethanol. Melting point: 103°, 20 g (44%).

reactant | 4-methyl-3-trifluoromethylbenzylhydrazine | 34 g | CC1=C(C=C(CNN)C=C1)C(F)(F)F | C9H11F3N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 26.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-trifluoromethyl-4-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)C)C(F)(F)F | C12H12F3N3O
